US06277617B1
Decyl Methanethiosulfonate
The mixture of 1-bromodecane (2.095 g, 0.00947 mol), sodium methanethiosulfonate and dry DMF (6 mL) was heated at 60° C. for 2 hr. At room temperature, water (15 mL) was added and the mixture was extracted with ether (3×30 mL). The ether extracts were washed with brine, dried, concentrated and the residue was subjected to flash column chromatography on silica gel with EtOAc-hexanes (1:4) to afford a white solid (2.063 g, 94%). It was recrystallized from 95% EtOH. mp: 28.0-29.5° C. IR (CDCl3 cast): 2954 (m), 2921 (st), 2852 (st), 1469 (m), 1305 (st), 1128 (st), 965 (m), 758 (m) and 720 cm−1 (m); 1H NMR (200 MHz, CDCl3): δ 3.32 (s, 3H, CH3SO2S), 3.17 (t, J=7.4 Hz, 2H, SCH2CH2), 1.77 (m, 2H, SCH2CH2), 1.50-1.20 (m, 14H, —(CH2)7—), 0.88 (m, 3H, CH2CH3); 13C NMR (50 MHz, CDCl3): δ 50.64, 36.49, 31.84, 29.45 (two carbons), 29.37, 29.23, 28.94, 28.57, 22.64, 14.08.

reactant | 1-bromodecane | 0.00947 mol, 2.095 g | BrCCCCCCCCCC | C10H21Br
reactant | sodium methanethiosulfonate | CS(=O)([O-])=S.[Na+]
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | Decyl Methanethiosulfonate | 2.063 g, 94% | CS(=O)(OCCCCCCCCCC)=S | C11H24O2S2
